Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
High Fever 
 
Major Surgical or Invasive Procedure:
___: Ultrasound-guided percutaneous drainage catheter 
placement.

 
History of Present Illness:
The patient is a ___ recently s/p robotic distal pancreatectomy 
and
splenectomy with SBR on ___ for symptomatic insulinoma 
(pT1N0M0) and small bowel carcinoid (pT2N1M0) now seen ___ 
consultation for evaluation of post-operative fever to 103. His 
postoperative course was uncomplicated and he was discharged 
home on ___. While his JP drain amylase was noted to be 
elevated
(2500) the quality and quantity of drain output remained benign 
after initiation of a regular diet. He was seen ___ clinic 
yesterday for complaints of early satiety and fatigue, with labs 
at that time demonstrating a WBC of 17.3 (down from ~25 while ___ 
patient) as well as a platelet count of 1047, from 380, for 
which he was started on aspirin 81mg. Since yesterday, he 
reports
developing fever to 103.7 which has not improved with tylenol. 
Aside from fatigue and poor PO intake, which have been constant 
issues since his operation, he has no other complaints acutely. 
His drain output had fallen to approximately 5cc/day over the 
preceding weekend but since ___ of this week has ranged from 
___ per day. The quality of drain output has remained the

 
Past Medical History:
Insulinoma 
Neuroendocrine tumor (carcinoma)
 
Social History:
___
Family History:
-parents: HTN, HLD
-siblings: migraine
 
Physical Exam:
On Admission:
VS: 99.4 108 120/74 18 100RA
Gen: NAD, thin appearing and fatigued but ___ NAD
CV: tachycardic but with normal rhythm
R: clear bilaterally, unlabored, no ronchi
Abd: surgical incisions are well healing, not distended, not
tympanitic, uncomfortable to deep palpation ___ the LUQ alone, no
rebound/guarding, no masses; JP ___ LUQ productive of thin, grey
fluid which recently has amounted to ~30cc/day
Ext: no c/c/e

Prior to Discharge:
VS: 98.7, 68, 135/84, 18, 97% RA
GEN: Pleasant with NAD
HEENT: No scleral icterus 
CV: RRR, no m/r/g
PULM: CTAB
ABD: Midline incision open to air with dermabond, blanched 
erythema without drainage or significant swelling. LUQ ___ drain 
to bulb suction with moderate amount of sanguinous-purulent 
fluid, site c/d/I. Old LUQ JP site with DSD and c/d/I. 
EXTR: Warm, no c/c/e, LUE Midline with dressing intact. 

 
Pertinent Results:
RECENT LABS:

___ 06:30PM BLOOD WBC-37.3*# RBC-4.40* Hgb-13.2* Hct-39.1* 
MCV-89 MCH-30.0 MCHC-33.8 RDW-12.1 RDWSD-39.1 Plt ___
___ 05:30AM BLOOD WBC-17.8* RBC-4.05* Hgb-11.8* Hct-36.0* 
MCV-89 MCH-29.1 MCHC-32.8 RDW-12.1 RDWSD-39.1 Plt ___
___ 05:30AM BLOOD Glucose-105* UreaN-8 Creat-0.8 Na-139 
K-4.5 Cl-99 HCO3-25 AnGap-15
___ 05:03AM BLOOD ALT-76* AST-77* AlkPhos-132* TotBili-0.8
___ 05:30AM BLOOD Calcium-9.5 Phos-4.6* Mg-2.2
___ 11:10AM OTHER BODY FLUID ___ Triglyc-211

MICRO:
___ 4:19 pm ABSCESS      Source: LUQ collection. 

   GRAM STAIN (Final ___: 
      1+    (<1 per 1000X FIELD):   POLYMORPHONUCLEAR 
LEUKOCYTES. 
      4+   (>10 per 1000X FIELD):   GRAM POSITIVE COCCI. 
                                    ___ CLUSTERS. 

   FLUID CULTURE (Final ___: 
      STAPH AUREUS COAG +.    MODERATE GROWTH. 
         This isolate is presumed to be resistant to clindamycin 
based on
         the detection of inducible resistance . 
         Staphylococcus species may develop resistance during 
prolonged
         therapy with quinolones.   Therefore, isolates that are 
initially
         susceptible may become resistant within three to four 
days after
         initiation of therapy.  Testing of repeat isolates may 
be
         warranted. 

                              SENSITIVITIES: MIC expressed ___ 
MCG/ML
                      
_________________________________________________________
                             STAPH AUREUS COAG +
                             |   
CLINDAMYCIN-----------       R
ERYTHROMYCIN----------       R
GENTAMICIN------------ <=0.5 S
LEVOFLOXACIN----------<=0.12 S
OXACILLIN-------------   0.5 S
TETRACYCLINE----------  =>16 R
TRIMETHOPRIM/SULFA---- <=0.5 S

   ANAEROBIC CULTURE (Preliminary):    NO ANAEROBES ISOLATED. 

RADIOLOGY:
___ CT ABD:
IMPRESSION: 
1. Postoperative changes of distal pancreatectomy and 
splenectomy.  Stranding with peripherally enhancing fluid 
collections measuring up to 2.8 cm adjacent to the suture line 
at the pancreatic body.  Larger dominant peripheral enhancing 
fluid collection ___ the post splenectomy bed measuring up to 13 
cm with a drain ___ place. 
2. Postoperative changes small-bowel and mesenteric lymph node 
resection. 
3. Hyperenhancing portion of the liver likely due to altered 
perfusion ___ the setting of small peripheral portal venous 
branch thrombosis.  Main and other visualized portal vein 
branches are patent.

___ US ABD:
FINDINGS:  
Large collection was identified ___ the left upper quadrant.  ___ 
addition, 
there was a smaller collection ___ the left subhepatic space 
adjacent to the remanent pancreatic tail/body measuring 3.9 x 
3.2 x 2.3 cm during preprocedure imaging.  After successful 
drainage of the left upper quadrant collection, the smaller 
collection ___ the left subhepatic space was re-evaluated and 
became significantly smaller ___ volume.  A previously inserted 
surgical drainage catheter was noted at the tail of the pancreas 
and appeared to have a linear track that communicated with the 
left subhepatic collection.  There may have been improved 
drainage of this smaller collection by the previously placed 
percutaneous drain once mass effect from the left 
subdiaphragmatic collection was relieved. 
  
IMPRESSION:  
1. Successful ultrasound-guided placement of ___ pigtail 
catheter into the left upper quadrant subdiaphragmatic 
collection.  Samples were sent for microbiology evaluation. 
2.  A second smaller collection ___ the left subhepatic space 
became smaller after the drainage of the large collection ___ the 
left upper quadrant. 
 

 
Brief Hospital Course:
Mr. ___ is a ___ male s/p distal pancreatectomy, 
splenectomy, small bowel resection ___. On ___ (post op day 
14), patient was seen ___ clinic exhibiting symptoms of early 
satiety and fatigue. On ___, patient was seen ___ the emergency 
room with a fever of 103.7, his WBC was 37.3. Abdominal CT 
demonstrated large intra abdominal fluid collection ___ the post 
operative bed. Patient was started on broad spectrum antibiotics 
and ___ was consulted for drain placement. On HD 2, patient 
underwent US-guided placement of ___ pigtail catheter into 
the left upper quadrant subdiaphragmatic collection, sample was 
sent for microbiology. Infectious Diseases team was consulted 
for proper antibiotic and duration. On HD 3, patient remained 
afebrile and his WBC returned back to baseline level. On HD 4, 
patient cultures came back positive for Staph aureus coag +, 
sensitive for penicillin. Per ID antibiotics were changed to 
Cefazolin. On HD 5, mid-line was placed and patient was 
discharged home ___ stable condition. He will continue on IV 
antibiotics at home, abdominal ultrasound was scheduled as 
outpatient prior his f/u with surgery and ID team on ___. 
At the time of discharge, the patient was doing well, afebrile 
with stable vital signs. The patient was tolerating a regular 
diet, ambulating, voiding without assistance, and pain was well 
controlled. The patient received discharge teaching and 
follow-up instructions with understanding verbalized and 
agreement with the discharge plan.

  
   
 
Medications on Admission:
tylenol ___ prn, colace 100'' prn, MVI, oxycodone ___ 
q4hr prn,  pantoprazole 40', senna 8.6 prn, ASA 81'

 
Discharge Medications:
1.  CeFAZolin 2 g IV Q8H 
RX *cefazolin ___ dextrose (iso-os) 2 gram/100 mL 2 g Midline 
every eight (8) hours Disp #*42 Intravenous Bag Refills:*0 
2.  Heparin Flush (10 units/ml) 2 mL IV DAILY and PRN, line 
flush  
3.  Sodium Chloride 0.9%  Flush 10 mL IV DAILY and PRN, line 
flush  
4.  OxyCODONE (Immediate Release) 5 mg PO Q6H:PRN Pain - 
Moderate 
  Reason for PRN duplicate override: Alternating agents for 
similar severity
RX *oxycodone 5 mg ___ tablet(s) by mouth Q4hrs Disp #*30 Tablet 
Refills:*0 
5.  Acetaminophen 1000 mg PO Q6H:PRN Pain - Mild 
do not exceed more then 3000 mg/day  
6.  Aspirin 81 mg PO DAILY  
7.  Pantoprazole 40 mg PO Q24H 
RX *pantoprazole 40 mg 1 tablet(s) by mouth 1Xday Disp #*30 
Tablet Refills:*0 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
1. Intra abdominal abscess 
2. Sepsis 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to the surgery service at ___ with symptoms 
of sepsis. You were found to have large intra abdominal abscess, 
and underwent US guided drainage of the collection and started 
on antibiotics. You are now safe to return home to complete your 
recovery with the following instruction:
.
Please ___ Dr. ___ office at ___ or office nurse 
at ___ if you have fever, increase ___ drain 
output, drain output become bloody, leak from your surgical 
incision, or other concerns. 
.
Please resume all regular home medications , unless specifically 
advised not to take a particular medication.  Also, please take 
any new medications as prescribed.
Please get plenty of rest, continue to ambulate several times 
per day, and drink adequate amounts of fluids.  Avoid lifting 
weights greater than ___ lbs until you follow-up with your 
surgeon, who will instruct you further regarding activity 
restrictions.
Avoid driving or operating heavy machinery while taking pain 
medications.
Please follow-up with your surgeon and Primary Care Provider 
(PCP) as advised.
.
Incision Care:
*Please ___ your doctor or nurse practitioner if you have 
increased pain, swelling, redness, or drainage from the incision 
site.
*Avoid swimming and baths until your follow-up appointment.
*You may shower, and wash surgical incisions with a mild soap 
and warm water.  Gently pat the area dry.
.
___ Drain Care:
*Flush drain with 10 cc of NS twice a day.
*Please look at the site every day for signs of infection 
(increased redness or pain, swelling, odor, yellow or bloody 
discharge, warm to touch, fever).
*Maintain suction of the bulb.
*Note color, consistency, and amount of fluid ___ the drain.  
___ the doctor, ___, or ___ nurse if the amount 
increases significantly or changes ___ character.
*Be sure to empty the drain frequently.  Record the output, if 
instructed to do so.
*You may shower; wash the area gently with warm, soapy water.
*Keep the insertion site clean and dry otherwise.
*Avoid swimming, baths, hot tubs; do not submerge yourself ___ 
water.
*Make sure to keep the drain attached securely to your body to 
prevent pulling or dislocation.
.
Mid-line Line:
*Please monitor the site regularly, and ___ your MD, nurse 
practitioner, or ___ Nurse if you notice redness, swelling, 
tenderness or pain, drainage or bleeding at the insertion site.
* ___ your MD or proceed to the Emergency Room immediately if 
the Mid-line tubing becomes damaged or punctured, or if the line 
is pulled out partially or completely.  DO NOT USE THE MID-LINE 
___ THESE CIRCUMSTANCES.Please keep the dressing clean and dry. 
Contact your ___ Nurse if the dressing comes undone or is 
significantly soiled for further instructions.
 
Followup Instructions:
___